US07425568B2
2-(2-Nitrophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 2-(2-nitrophenyl)chroman-4,6-diol. 1H NMR (400 MHz, d6-DMSO) δ: 8.85 (s, 1H), 8.00 (d, 1H, J 8.0 Hz), 7.79-7.80 (m, 2H), 7.59-7.63 (m, 1H), 6.59-6.62 (m, 1H), 6.50-6.53 (m, 2H), 5.36 (dd, 1H, J 10.2, 2.0 Hz), 2.89-2.93 (m, 1H), 2.67-2.73 (m, 1H), 2.26-2.31 (m, 1H), 1.90-1.95 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(2-nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C1=C(C=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
product | 2-(2-Nitrophenyl)chroman-6-ol | [N+](=O)([O-])C1=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H13NO4
